US06995264B2
In 600 ml of water was dissolved 36.0 g of potassium carbonate, to which were added 60.0 g of 7-(4-chlorobutoxy)-3,4-dihydrocarbostyril and 69.6 g of 1-(2,3-dichlorophenyl)piperazine monohydrochloride. The mixture was heated with stirring at 90 to 95° C. for about 4 hours. Then, the reaction mixture was cooled to about 40° C., and the deposited crystals were collected by filtration. The crystals thus obtained were washed with 240 ml of water and dissolved in 900 ml of ethyl acetate, and an azeotropic mixture of water/ethyl acetate (about 300 ml) was distilled out under reflux. The remaining solution was cooled to 0 to 5° C., and the deposited crystals were collected by filtration. The crystals thus obtained were washed with 120 ml of ethyl acetate and dried under a reduced pressure of 50 Torr, at 50 to 60° C. for 3 hours to obtain 98.4 g of aripiprazole (yield 92.8%, purity 99%). mp. 140° C.

reactant | potassium carbonate | 36.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(4-chlorobutoxy)-3,4-dihydrocarbostyril | 60.0 g | ClCCCCOC1=CC=C2CCC(NC2=C1)=O | C13H16ClNO2
reactant | 1-(2,3-dichlorophenyl)piperazine monohydrochloride | 69.6 g | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
solvent | water | 600 ml | O | H2O
product | aripiprazole | 98.4 g, yield 92.8% | C=1C=C(C(=C(C1)Cl)Cl)N2CCN(CC2)CCCCOC=3C=CC4=C(C3)NC(=O)CC4 | C23H27Cl2N3O2
